Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
RLE swelling, DOE
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH notable for
hypertension who presents with right lower leg swelling and
dyspnea with exertion. 

Patient reports that he first started having symptoms about 2
weeks ago when he had an episode of acute onset chest pressure 
in
the mid lower central part of his chest that he thought was
indigestion.  It was also associated with shortness of breath
like he cannot get enough air.  Over the course of the next ___
days, chest pain dyspnea improved although he noticed that his
exercise capacity decreased in the following weeks. Over the 
same
time period, patient noticed worsening swelling of his right leg
and loss of sensation. He tried wearing compression stockings 
and
this helped somewhat. He went to see his PCP for evaluation and
was sent for lower extremity ultrasound of his right leg today.

The ultrasound showed extensive clot in his right lower 
extremity
deep veins, which prompted his referral to the ED for further
evaluation.  

In the ED:
Initial vital signs were notable for: 97.5 92 115/79 14 96% RA 

Exam notable for: RLE edema to mid-knee. Lungs clear 
bilaterally.

Labs were notable for:
___ 04:47PM BLOOD WBC: 6.0 RBC: 4.53* Hgb: 13.1* Hct: 40.7
MCV: 90 MCH: 28.9 MCHC: 32.2 RDW: 12.7 RDWSD: 41.___ 
___ 04:47PM BLOOD Neuts: 55.3 Lymphs: ___ Monos: 6.3 Eos:
5.7 Baso: 0.5 Im ___: 0.3 AbsNeut: 3.32 AbsLymp: 1.92 AbsMono:
0.38 AbsEos: 0.34 AbsBaso: 0.03 
___ 04:47PM BLOOD ___: 13.8* PTT: 26.5 ___: 1.3* 
___ 04:47PM BLOOD Glucose: 101* UreaN: 15 Creat: 1.2 Na: 
141
K: 4.0 Cl: 101 HCO3: 29 AnGap: 11 
___ 08:40PM BLOOD ALT: 23 AST: 23 AlkPhos: 89 TotBili: 0.3 
___ 04:47PM BLOOD cTropnT: <0.01 proBNP: 501* 
___ 08:40PM BLOOD Albumin: 3.7 

Studies performed include:
CTA ___. Acute right-sided pulmonary emboli involving the right main
pulmonary 
artery and lobar and segmental branches of the right upper and
lower lobes. 
Mild dilation of the main pulmonary artery to 3.1 cm along with
straightening 
of the intraventricular septum and mild dilatation of right
ventricle 
worrisome for right heart strain, which can be correlated with
echocardiogram. 
2. Additional nonocclusive thrombus within a left lower lobe
segmental branch 
which could be chronic in age. 
3.  2.6 x 3.6 cm subcarinal hypodense round lesion, potentially 
a
bronchogenic 
cyst, but incompletely characterized on this study.  MR or CT
with and without 
contrast is recommended for further characterization in 3 
months.

4. Heterogeneous and slightly enlarged right lobe of the 
thyroid,
with a 
subtle 18 mm right thyroid lobe nodule.  Further evaluation with
thyroid 
ultrasound is recommended non emergently. 
5. Mild cylindrical bronchiectasis. 

___ ___. Complete to near complete occlusion of the right common
femoral, femoral, 
and popliteal veins. 
2. Occlusion of one of the two right posterior tibial veins. 
3. No evidence of deep venous thrombosis in the left lower
extremity veins. 

Patient was given:
+ Heparin ggt

Consults:
Vascular medicine - Recommended continuous O2 monitoring, start
heparin ggt, formal TTE. 

Vitals on transfer: 97.7 66 127/78 18 98% RA 

Upon arrival to the floor, patient reports feeling well aside
from RLE swelling. Denies dyspnea at rest. Denies syncope,
pre-syncope, palpitations, chest pain. 

 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
No family history of cancer or thrombosis. 
 
Physical Exam:
ADMISSION EXAM:
===============
GENERAL: Lying comfortably in bed. No acute distress. 
HEENT: PERRL, EOMI. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. 
ABDOMEN: Non distended, non-tender to deep palpation in all four
quadrants. No organomegaly.
EXTREMITIES: RLE with swollen with 3+ pitting edema to knee.
Tenderness to palpation of posterior calf. Left lower extremity
without edema. 
NEUROLOGIC: CN2-12 intact. ___ strength throughout.

DISCHARGE EXAM:
===============
GENERAL: Lying comfortably in bed. No acute distress. 
HEENT: NC/AT, anicteric sclera, MMM, clear oropharynx.
NECK: Flat JVP.
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. 
ABDOMEN: Soft, non-distended, non-tender to deep palpation in 
all
four quadrants.
EXTREMITIES: 1+ pitting edema of the RLE to the mid-shin knee.
Tenderness to palpation of posterior calf. No LLE edema.
NEUROLOGIC: AOx3.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:47PM BLOOD WBC-6.0 RBC-4.53* Hgb-13.1* Hct-40.7 
MCV-90 MCH-28.9 MCHC-32.2 RDW-12.7 RDWSD-41.7 Plt ___
___ 04:47PM BLOOD ___ PTT-26.5 ___
___ 04:47PM BLOOD Glucose-101* UreaN-15 Creat-1.2 Na-141 
K-4.0 Cl-101 HCO3-29 AnGap-11
___ 08:40PM BLOOD ALT-23 AST-23 AlkPhos-89 TotBili-0.3
___ 04:47PM BLOOD cTropnT-<0.01 proBNP-501*
___ 03:00AM BLOOD Albumin-3.6 Calcium-9.4 Phos-4.2 Mg-2.1

STUDIES:
========
___ ___
1. Complete to near complete occlusion of the right common 
femoral, femoral, and popliteal veins. 
2. Occlusion of one of the two right posterior tibial veins. 
3. No evidence of  deep venous thrombosis in the left lower 
extremity veins. 

___ CTA chest
1. Acute right-sided pulmonary emboli involving the right main 
pulmonary 
artery and lobar and segmental branches of the right upper and 
lower lobes. Mild dilation of the main pulmonary artery to 3.1 
cm along with straightening of the intraventricular septum and 
mild dilatation of right ventricle worrisome for right heart 
strain, which can be correlated with echocardiogram. 
2. Additional nonocclusive thrombus within a left lower lobe 
segmental branch which could be chronic in age. 
3. 2.6 x 3.6 cm subcarinal hypodense round lesion, potentially a 
bronchogenic cyst, but incompletely characterized on this study. 
 MR or CT with and without contrast is recommended for further 
characterization in 3 months. 
4. Heterogeneous and slightly enlarged right lobe of the 
thyroid, with a 
subtle 18 mm right thyroid lobe nodule.  Further evaluation with 
thyroid 
ultrasound is recommended non emergently. 
5. Mild cylindrical bronchiectasis. 
  
RECOMMENDATION(S): 
1. Echocardiogram to confirm right heart strain, if needed. 
2. Three-month MR or CT with and without contrast is recommended 
for further characterization of the subcarinal lesion. 
3. Nonemergent thyroid ultrasound is recommended for further 
evaluation of 
heterogeneous enlarged right lobe of the thyroid and right 
thyroid nodule. 

___ TTE
The left atrium is elongated. The right atrium is moderately 
enlarged. The interatrial septum is aneurysmal. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and
global left ventricular systolic function. Quantitative biplane 
left ventricular ejection fraction is 56 %. Left ventricular 
cardiac index is normal (>2.5 L/min/m2). There is no resting 
left ventricular outflow tract
gradient. Tissue Doppler suggests a normal left ventricular 
filling pressure (PCWP less than 12mmHg). Normal right 
ventricular cavity size with low normal free wall motion. The 
aortic sinus diameter is normal for gender with mildly dilated 
ascending aorta. The aortic arch diameter is normal. The aortic 
valve leaflets (3) appear structurally normal. There is no 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral regurgitation. The 
tricuspid valve leaflets appear structurally normal. There is 
mild [1+] tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is a trivial 
pericardial effusion.

IMPRESSION: Borderline right ventricular systolic function. 
Atrial septal aneurysm without Doppler evidence of interatrial 
flow.

DISCHARGE LABS:
===============
___ 04:36AM BLOOD WBC-5.0 RBC-4.44* Hgb-13.0* Hct-39.3* 
MCV-89 MCH-29.3 MCHC-33.1 RDW-12.7 RDWSD-40.6 Plt ___
___ 04:36AM BLOOD ___ PTT-32.7 ___
___ 04:36AM BLOOD Plt ___
___ 04:36AM BLOOD UreaN-14 Creat-1.2 Na-143 K-4.4 Cl-104 
HCO3-26 AnGap-13
___ 03:00AM BLOOD ALT-23 AST-21 LD(LDH)-218 AlkPhos-86 
TotBili-0.___ with history of HTN who p/w subacute RLE edema and dyspnea 
on exertion, found to have extensive RLE DVT c/b bilateral PE's 
with borderline RV function. He was bridged from heparin gtt to 
apixaban.

ACUTE ISSUES:
=============
#Acute pulmonary embolism
#Extensive RLE DVT
Patient reports developing acute-onset RLE swelling and DOE 2 
weeks ago after taking a bus ride to ___. On this admission, 
___ showed occlusion of the right common femoral, femoral, 
popliteal, and posterior tibial veins. CTA chest with acute PE 
in the right main pulmonary artery and lobar and segmental 
branches with LLL segmental PE of unclear age. In terms of 
etiology, he denies a prior history of VTE, family history of 
VTE, other recent prolonged immobilization, or h/o smoking. 
Denies significant weight loss but has not had age-appropriate 
malignancy screening, i.e. colonoscopy. Clinically, he remained 
HDS without hypoxia. ___ TTE showed borderline RV systolic 
function. Per Vascular Medicine, there was no acute indication 
for thrombolysis. He was started on heparin and bridged to 
therapeutic apixaban 10mg BID with plan to transition to 
maintenance apixaban 5mg BID in 7 days. He is scheduled to 
follow up with Vascular Medicine on ___. Please consider 
work-up for hypercoagulable disorders; also recommend outpatient 
colonoscopy.

#Subcarinal hypodense round lesion
Seen on admission CTA chest; may represent bronchogenic cyst. 
Recommend follow-up with MR or CT w/w/out contrast in 3 months.

#Heterogeneous enlarged right lobe of thyroid
Seen on admission CTA chest. Recommend follow-up with outpatient 
thyroid ultrasound.

CHRONIC ISSUES:
===============
#Hypertension
Home amlodipine and HCTZ were held on admission in the setting 
of new PE but restarted on discharge.

TRANSITIONAL ISSUES:
====================
- Patient should take a loading dose of 10mg apixaban BID 
through ___ and transition to a maintenance dose of 5mg 
apixaban BID on ___.
[] Please consider work-up for VTE, including colonoscopy and 
testing for hypercoagulable disorders.
[] Recommend follow-up for subcarinal hypodense lesion with MR 
or CT w/w/out contrast in 3 months.
[] Recommend follow-up for thyroid lesion with ultrasound.

Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
Take 2 tablets (10 mg) twice daily through ___. On ___, 
switch to 1 tablet (5 mg) twice daily. 
RX *apixaban [Eliquis] 5 mg (74 tabs) 2 tablets(s) by mouth 
twice a day Disp #*1 Dose Pack Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
================== 
RLE DVT 
Bilateral PE's 
 
SECONDARY DIAGNOSIS: 
==================== 
HTN 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital with leg swelling that developed a 
couple of weeks ago and because you were having some trouble 
breathing.

What did you receive in the hospital?
- You had an ultrasound of your legs that showed blood clot in 
the veins of your right leg. You also had a scan of your chest 
called a CT that showed blood clots in the arteries of your 
lungs. Blood clots that develop in the leg veins can break off 
and travel to the arteries of the lung. It is very important to 
continue to take your blood thinner (apixaban/Eliquis) to 
prevent the blood clots from getting larger and affecting your 
heart or lungs.

What should you do once you leave the hospital?
- Please take 2 tablets (10 mg) of apixaban/Eliquis twice daily 
through ___. On ___, switch to 1 tablet (5 mg) of 
apixaban/Eliquis twice daily.
- Please continue to take your other medications as prescribed.
- You have follow up with your primary care doctor and ___ doctor 
who will monitor the blood clots.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___